US08471005B2
1-(2-Fluoro-4-nitro-phenyl)-piperazine (0.438 g, 1.94 mmol), Iodoacetamide (0.401 g, 2.17 mmol), Cesium Carbonate (0.956 g, 2.93 mmol) and Acetonitrile (20 mL, 400 mmol) were combined and stirred at 60° C. for 20 hours. The mixture was cooled to room temperature. Water was added to the mixture and the product was extracted into ethyl acetate three times. The extracts were dried over sodium sulfate, filtered and concentrated to yield a yellow solid, 2-[4-(2-Fluoro-4-nitro-phenyl)-piperazin-1-yl]-acetamide (558 mg, 100%). LCMS: m/z=283.06 (M+H+); 1H NMR (400 MHz, DMSO-d6) δ 8.00 (d, 2H), 7.26 (br s, 1H), 7.17 (m, 2H), 2.94 (s, 2H), 2.60 (m, 2H), 2.50 (s, 6H).

reactant | 1-(2-Fluoro-4-nitro-phenyl)-piperazine | 1.94 mmol, 0.438 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1CCNCC1 | C10H12FN3O2
reactant | Iodoacetamide | 2.17 mmol, 0.401 g | ICC(=O)N | C2H4INO
reactant | Cesium Carbonate | 2.93 mmol, 0.956 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Acetonitrile | 400 mmol, 20 mL | C(C)#N | C2H3N
solvent | Water | O | H2O
product | 2-[4-(2-Fluoro-4-nitro-phenyl)-piperazin-1-yl]-acetamide | 558 mg, 100% | FC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)CC(=O)N | C12H15FN4O3
